US06200980B1
6-(2-Ethoxyphenyl)-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
A solution of 5-(2-ethoxybenzamido)-1-n-propyl-pyrazole-4-carboxamide (Preparation 2; 0.541 g, 0.0017 mol) and sodium hydroxide (0.10 g, g, 0.0026 mol) in a mixture of water (5 ml) and ethanol 1 ml) was heated under reflux for 20 hours. The cool reaction solution was extracted with dichloromethane (5×30 ml), then the combined extracts dried (Na2SO4) and evaporated under vacuum to give the crude product. Purification by column chromatography (SiO2, 5% MeOH in CH2Cl2) afforded the title compound as a white solid (0.45 g, 89%). Crystallisation of a sample from ethyl acetate-hexane gave colourless needles, m.p. 154-155° C. Found: C,64.45; H,5.97; N,18.89. C16H18N4O2 requires C,64.41; H,6.08; N,18.78%.

reactant | 5-(2-ethoxybenzamido)-1-n-propyl-pyrazole-4-carboxamide | 0.0017 mol, 0.541 g | C(C)OC1=C(C(=O)NC2=C(C=NN2CCC)C(=O)N)C=CC=C1 | C16H20N4O3
reactant | sodium hydroxide | 0.0026 mol, 0.10 g | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 6-(2-Ethoxyphenyl)-1-n-propyl-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | 0.45 g, 89% | C(C)OC1=C(C=CC=C1)C=1NC(C2=C(N1)N(N=C2)CCC)=O | C16H18N4O2
